US08084448B2
B. 2-Benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamine
A solution of (3-benzyloxy-4-nitrophenoxy)-tert-butyldimethylsilane in EtOAc (50 mL) is hydrogenated over 5% Pt/C (630 mg) at 1 atm for 18 h. The catalyst is filtered off through Celite and the solvent removed under reduced pressure to afford the title compound as an oil: 1H NMR (CDCl3δ7.26 (m, 5H), 6.48 (d, J=8.3 Hz, 1H), 6.29 (d, J=2.5 Hz, 1H), 6.19 (dd, J=8.3, 2.5 Hz, 1H), 4.93 (s, 2H), 0.83 (s, 9H), 0.00 (s, 6H); (M+1)+=330.

reactant | (3-benzyloxy-4-nitrophenoxy)-tert-butyldimethylsilane | C(C1=CC=CC=C1)OC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1[N+](=O)[O-] | C19H25NO4Si
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pt/C | 630 mg | [Pt] | Pt
product | 2-Benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)N | C19H27NO2Si
